US07915427B2
(2S)-1-[2-(benzenesulfonyloxy)acetyl]-4,4-difluoropyrroli dine-2-carboxamide (872 mg) was dissolved in acetonitrile (16 mL), followed by triethylamine (1.05 mL). While this mixture was cooled in a salt-ice bath, trifluoroacetic anhydride (0.53 mL) was added dropwise. The mixture was stirred at the same temperature for 1 hour, followed by the addition of water (16 mL) and extraction with ethyl acetate (2×60 mL). The ethyl acetate extracts were combined, washed with saturated brine (2×20 mL), dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The resulting residue was purified on a silica gel column (eluant=hexane:ethyl acetate=1:1) to give (2S)-1-[2-(benzenesulfonyloxy)acetyl]-4,4-difluoropyrrolidine-2-carbonitrile as a white crystal (789 mg, 96% yield).

reactant | (2S)-1-[2-(benzenesulfonyloxy)acetyl]-4,4-difluoropyrroli dine-2-carboxamide | 872 mg | C1(=CC=CC=C1)S(=O)(=O)OCC(=O)N1[C@@H](CC(C1)(F)F)C(=O)N | C13H14F2N2O5S
reactant | triethylamine | 1.05 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 0.53 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | 16 mL | O | H2O
solvent | acetonitrile | 16 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
product | (2S)-1-[2-(benzenesulfonyloxy)acetyl]-4,4-difluoropyrrolidine-2-carbonitrile | 789 mg, 96% yield | C1(=CC=CC=C1)S(=O)(=O)OCC(=O)N1[C@@H](CC(C1)(F)F)C#N | C13H12F2N2O4S
